US06472386B1
Synthesis of Ethyl 2-(3,4,5-Trimethoxyphenylethynyl)-thiazole-4-carboxylate
3,4,5-Trimethoxyphenylacetylene (1.34 g), ethyl 2-bromothiazole-4-carboxylate (1.98 g) and copper iodide (53 mg) were dissolved in a mixed solvent of DMF (3 mL) and triethylamine (6 mL), and to the solution dichlorobis-(triphenylphosphine)palladium (II) (99 mg) was added, and the mixture was stirred at 45° C. for 4 hours under an argon atmosphere. The reaction mixture was diluted with ethyl acetate, washed with 2 M hydrochloric acid, water and saturated brine, dried over anhydrous sodium sulfate. After concentrating the reaction mixture under reduced pressure, the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1 to 3:1) to obtain the title compound.

reactant | 3,4,5-Trimethoxyphenylacetylene | 1.34 g | COC=1C=C(C=C(C1OC)OC)C#C | C11H12O3
reactant | ethyl 2-bromothiazole-4-carboxylate | 1.98 g | BrC=1SC=C(N1)C(=O)OCC | C6H6BrNO2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 6 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 53 mg | [Cu](I)I
catalyst | dichlorobis-(triphenylphosphine)palladium (II) | 99 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Ethyl 2-(3,4,5-Trimethoxyphenylethynyl)-thiazole-4-carboxylate | COC=1C=C(C=C(C1OC)OC)C#CC=1SC=C(N1)C(=O)OCC | C17H17NO5S
